US07767670B2
Synthesis of Compound B1: N-(3-tert-butylisoxazol-5-yl)-2-(4-(benzyloxy)phenyl)acetamide
(4-Benzyloxy-phenyl)-acetic acid (50 mg, 0.2 mmol, 1 eq) was stirred with 1 mL of thionyl chloride at 80° C. for approximately three hours. The completion of the reaction was checked by TLC. Excess thionyl chloride was removed in vacuo, the residue was dissolved in dichloromethane and added to a mixture of 3-tert-butyl-isoxazol-5-ylamine (28 mg, 0.2 mmol, 1 eq) and DIEA (35 μL, 0.2 mmol, 1 eq). The reaction was stirred overnight at 45° C. The solvent was removed and the product purified by HPLC. Yield: 42 mg (57%), LC/MS [MH+] 365.

reactant | (4-Benzyloxy-phenyl)-acetic acid | 0.2 mmol, 50 mg, 1 eq | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(=O)O | C15H14O3
reactant | thionyl chloride | 1 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 3-tert-butyl-isoxazol-5-ylamine | 0.2 mmol, 28 mg, 1 eq | C(C)(C)(C)C1=NOC(=C1)N | C7H12N2O
reactant | DIEA | 0.2 mmol, 35 μL, 1 eq | CCN(C(C)C)C(C)C | C8H19N
product | N-(3-tert-butylisoxazol-5-yl)-2-(4-(benzyloxy)phenyl)acetamide | C(C)(C)(C)C1=NOC(=C1)NC(CC1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C22H24N2O3
